US07504413B2
To a 250 mL round bottom flask was added (R)-1-(4-(4-iodophenyl)-1-methyl-1H-imidazol-2-yl)-N-methylethanamine (3.1 g, 9.1 mmol), methyl chloroformate (0.84 mL, 10.9 mmol), Na2CO3 (1.15 g, 10.9 mmol), and THF (100 mL). The reaction was stirred for 2 hours, followed by the addition of EtOAc (50 mL) and water (10 mL). The organic layer was dried over Na2SO4, filtered, and concentrated to give 1.50 g (41%) of (R)-methyl 1-(4-(4-iodophenyl)-1-methyl-1H-imidazol-2-yl)ethyl(methyl)carbamate as an off-white solid (M+H (m/z)=400).

reactant | (R)-1-(4-(4-iodophenyl)-1-methyl-1H-imidazol-2-yl)-N-methylethanamine | 9.1 mmol, 3.1 g | IC1=CC=C(C=C1)C=1N=C(N(C1)C)[C@@H](C)NC | C13H16IN3
reactant | methyl chloroformate | 10.9 mmol, 0.84 mL | ClC(=O)OC | C2H3ClO2
reactant | Na2CO3 | 10.9 mmol, 1.15 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | (R)-methyl 1-(4-(4-iodophenyl)-1-methyl-1H-imidazol-2-yl)ethyl(methyl)carbamate | 1.50 g, 41% | IC1=CC=C(C=C1)C=1N=C(N(C1)C)[C@@H](C)N(C(OC)=O)C | C15H18IN3O2
